US07851473B2
N-(1,1-Dioxido-1-benzothien-6-yl)-4-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide
A mixed solution of 2,2,2-trichloroethyl (1,1-dioxido-1-benzothien-6-yl)carbamate (257 mg, 0.720 mmol), 1-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine (200 mg, 0.792 mmol) and diisopropylethylamine (0.129 ml, 0.720 mmol) in dimethyl sulfoxide (2.5 ml) was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Chloroform was added to the residue, and 69.6 mg (21.0%) of the desired product as a solid was separated by filtration.

reactant | 2,2,2-trichloroethyl (1,1-dioxido-1-benzothien-6-yl)carbamate | 0.720 mmol, 257 mg | O=S1(C=CC2=C1C=C(C=C2)NC(OCC(Cl)(Cl)Cl)=O)=O | C11H8Cl3NO4S
reactant | 1-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine | 0.792 mmol, 200 mg | S1C(=CC=C1)C1=NSC(=N1)N1CCNCC1 | C10H12N4S2
reactant | diisopropylethylamine | 0.720 mmol, 0.129 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
product | N-(1,1-Dioxido-1-benzothien-6-yl)-4-[3-(2-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxamide | O=S1(C=CC2=C1C=C(C=C2)NC(=O)N2CCN(CC2)C2=NC(=NS2)C=2SC=CC2)=O | C19H17N5O3S3
